US07994185B2
N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-2,5-difluorobenzenesulfonamide
A suspension of N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-2,5-difluorobenzenesulfonamide (150 mg, 0.288 mmol) and 2M ammonia in isopropanol (8.0 mL, 16.0 mmol) was heated in a sealed tube at 100° C. overnight. The reaction mixture was evaporated onto silica gel and chromatographed (10-100% 1:9 MeOH:EtOAc in DCM). The title compound was recovered as a beige solid (38 mg, 25% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.89 (s, 1H), 7.95 (d, J=5.1 Hz, 1H), 7.41-7.68 (m, 3H), 7.31 (t, J=7.9 Hz, 1H), 7.23 (s, 1H), 7.17 (d, J=7.9 Hz, 2H), 6.74 (s, 2H), 6.01 (d, J=5.1 Hz, 1H), 1.38 (s, 9H). MS (ESI): 502.1 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-2,5-difluorobenzenesulfonamide | 0.288 mmol, 150 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C23H19ClF2N4O2S2
reactant | ammonia | 2M | N | H3N
reactant | isopropanol | 16.0 mmol, 8.0 mL | C(C)(C)O | C3H8O
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-2,5-difluorobenzenesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C23H21F2N5O2S2
